US05559230
A mixture of 1-[4-(2-chloro-4-aminobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.55 g), acetic anhydride (15 ml), acetic acid (5 ml) and a drop of sulfuric acid is stirred at room temperature for 1 hour. To the reaction mixture is added aqueous 2N aqueous sodium hydroxide solution and the mixture is extracted with chloroform. The extract is washed with saturated saline solution and dried over magnesium sulfate. The solvent is concentrated and the resulting residue is recrystallized from methanol/diethyl ether to give 1-[4-(2-chloro-4-acetylaminobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.28 g) as white powder, m.p. 214°-243° C.

reactant | 1-[4-(2-chloro-4-aminobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.55 g | ClC1=C(C(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC(=C1)N | C24H22ClN3O2
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-[4-(2-chloro-4-acetylaminobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.28 g | ClC1=C(C(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC(=C1)NC(C)=O | C26H24ClN3O3
